US05191084
3-[3-(cyclopentyloxy)-4-methoxyphenyl]-2,5-dihydro-2-methyl-5-oxo-1H-pyrazole-1-carboxamide
To a 0° C. solution of phosgene (8.75 mmol, 4.61 mL; 1.9M solution in toluene) in dry tetrahydrofuran (30 mL) is added 5-[3-(cyclopentyloxy)-4-methoxyphenyl]-1,2-dihydro-1-methyl-3H-pyrazol-3-one (7.0 mmol, 2.02 g) in dry tetrahydrofuran (15 mL) dropwise over 20 minutes. The resulting cloudy solution is stirred at 0° C. for 10 minutes and at room temperature for 1 hour after which a homogenous solution is obtained. The reaction mixture is cooled to 0° C. and hexamethyldisilazane (17.5 mmol, 2.82 g; 3.64 mL) in dry tetrahydrofuran (15 mL) is added in one portion. The resulting suspension is stirred at room temperature for 1 hour and then the volatiles are removed in vacuo. The residue is partitioned between 2% aqueous acetic acid (200 mL) and ethyl acetate (200 mL) and the aqueous phase is extracted with ethyl acetate (150 mL). The combined organic layers are washed with H2O (100 mL), dried (Na2SO4), and concentrated in vacuo to afford a tan solid. This material is triturated with ether and dried in vacuo for 1 hour at 60° C. to give the title compound as a white solid (1.80 g; 78%). 1H NMR (DMSO-d6, 400 MHz) δ7.23 (br s, 1H); 7.02 (m, 3H); 6.92 (br s, 1H); 6.08 (s, 1H); 4.86 (m, 1H); 3.78 (s, 3H); 3.72 (s, 3H); 1.88 (m, 2H); 1.70 (m, 4H); 1.56 (m, 2H). IR (KBr, cm-1) 3400, 3300, 3200, 2950, 1760, 1500, 1330, 1250, 1130.

reactant | phosgene | 8.75 mmol, 1.9M, 4.61 mL | C(=O)(Cl)Cl | CCl2O
reactant | 5-[3-(cyclopentyloxy)-4-methoxyphenyl]-1,2-dihydro-1-methyl-3H-pyrazol-3-one | 7.0 mmol, 2.02 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(NN1C)=O | C16H20N2O3
reactant | hexamethyldisilazane | 17.5 mmol, 3.64 mL, 2.82 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-[3-(cyclopentyloxy)-4-methoxyphenyl]-2,5-dihydro-2-methyl-5-oxo-1H-pyrazole-1-carboxamide | 1.80 g, 78% | C1(CCCC1)OC=1C=C(C=CC1OC)C=1N(N(C(C1)=O)C(=O)N)C | C17H21N3O4
